US07037909B2
5-Chloro-3-(4-hydroxy-benzyl)-9H-1,2,3a,4,9,10-hexaaza-cyclopenta[b]fluoren-6-ol
According to a cyclization procedure for Example 30, 0.60 mmol of 4-chloro-5-hydroxy-1H-indole-2,3-dione (118.5 mg) and 0.70 mmol of 4-(4,5-diamino-4H-[1,2,4]triazol-3-ylmethyl)-phenol (144 mg) in 2 mL of ethylene glycol was stirred at 125° C. overnight (16 hr).

reactant | 4-chloro-5-hydroxy-1H-indole-2,3-dione | 0.60 mmol, 118.5 mg | ClC1=C2C(C(NC2=CC=C1O)=O)=O | C8H4ClNO3
reactant | 4-(4,5-diamino-4H-[1,2,4]triazol-3-ylmethyl)-phenol | 0.70 mmol, 144 mg | NN1C(=NN=C1N)CC1=CC=C(C=C1)O | C9H11N5O
solvent | ethylene glycol | 2 mL | C(CO)O | C2H6O2
product | 5-Chloro-3-(4-hydroxy-benzyl)-9H-1,2,3a,4,9,10-hexaaza-cyclopenta[b]fluoren-6-ol | ClC1=C2C3=NN4C(N=C3NC2=CC=C1O)=NN=C4CC4=CC=C(C=C4)O | C17H11ClN6O2
